US07285563B2
2-tert-Butyl-4-cyanopyridine
A mixture of 4-cyanopyridine (10 g, 96 mmol), trimethylacetic acid (9.8 g, 96 mmol), and silver nitrate (1.63 g, 9.6 mmol) in 10% aqueous sulfuric acid (100 ml) at 70° C. was treated with a solution of ammonium peroxodisulfate (21.9 g, 96 mmol) in water (120 ml) according to the method of Description 10. Purification by column chromatography on silica eluting with 10% Et2O in iso-hexanes gave the title compound (6.5 g, 42%).

reactant | 4-cyanopyridine | 96 mmol, 10 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | trimethylacetic acid | 96 mmol, 9.8 g | CC(C(=O)O)(C)C | C5H10O2
reactant | ammonium peroxodisulfate | 96 mmol, 21.9 g | [NH4+].[NH4+].[O-]S(=O)(=O)OOS(=O)(=O)[O-]
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 120 ml | O | H2O
catalyst | silver nitrate | 9.6 mmol, 1.63 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-tert-Butyl-4-cyanopyridine | 6.5 g, 42% | C(C)(C)(C)C1=NC=CC(=C1)C#N | C10H12N2
